US07691902B2
Step e: 5′-[(1-Benzo[1,3]dioxol-5-yl-cyclopropanecarbonyl)-amino]-2′-methylbiphenyl-4-sulfonyl chloride
5′-[(1-Benzo[1,3]dioxol-5-yl-cyclopropanecarbonyl)-amino]-2′-methylbiphenyl-4-sulfonic acid (1.9 g, 4.3 mmol) was dissolved in POCl3 (30 mL) followed by the addition of SOCl2 (3 mL) and DMF (100 μl). The reaction mixture was heated at 70-80° C. for 15 min. The reagents were evaporated and re-evaporated with chloroform-toluene. The residual brown oil was diluted with chloroform (22 mL) and immediately used for sulfonylation. ESI-MS m/z calc. 469.0, found 470.1 (M+1).

reactant | 5′-[(1-Benzo[1,3]dioxol-5-yl-cyclopropanecarbonyl)-amino]-2′-methylbiphenyl-4-sulfonic acid | 4.3 mmol, 1.9 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=CC(=C(C2)C2=CC=C(C=C2)S(=O)(=O)O)C | C24H21NO6S
reactant | SOCl2 | 3 mL | O=S(Cl)Cl | Cl2OS
reactant | DMF | 100 μl | CN(C)C=O | C3H7NO
solvent | POCl3 | 30 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5′-[(1-Benzo[1,3]dioxol-5-yl-cyclopropanecarbonyl)-amino]-2′-methylbiphenyl-4-sulfonyl chloride | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=CC(=C(C2)C2=CC=C(C=C2)S(=O)(=O)Cl)C | C24H20ClNO5S
